US04060528
Gaseous ammonia is introduced through a solution of 5.8 parts of p-(2-thenoyl)hydratropoyl chloride in 80 parts of ether; the product is precipitated as an oil. The solvent is decanted and the oil is stirred in petroleumether. The solvent is decanted each time. The oily residue is dissolved in 2-propanol and the solvent is evaporated. The residue is dissolved in ether and upon the addition of petroleumether, the product is precipitated. It is filtered off and purified by column-chromatography over silicagel, using a mixture of chloroform, methanol and acetone (8 : 1 : 1 by volume). The pure fractions are collected and the solvent is evaporated. The oily residue is triturated in ether. The solid product is filtered off and dried, yielding p-(2-thenoyl)hydratropamide; mp. 108°-124° C.

reactant | ammonia | N | H3N
reactant | p-(2-thenoyl)hydratropoyl chloride | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)Cl)C)C=C1 | C14H11ClO2S
solvent | ether | CCOCC | C4H10O
product | p-(2-thenoyl)hydratropamide | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)N)C)C=C1 | C14H13NO2S
